US08106215B2
A.6.2 Synthesis of (1S,2S,5R)-2-(7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl)-isoindole-1,3-dione
To a suspension of (1S,2S,5R)-2-(3-benzyl-7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl)-isoindole-1,3-dione (1.73 g), Pd—C 10% (1.7 g) in dry MeOH (146 mL) was added ammonium formate (1.38 g). The reaction mixture was stirred at reflux for 16 h, cooled to RT and filtered over a pad of celite. The filtrate was concentrated in vacuo, partitioned between DCM/water. The aqueous phase was concentrated to yield 0.8 g (60%) of the title compound as a white solid

reactant | (1S,2S,5R)-2-(3-benzyl-7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl)-isoindole-1,3-dione | 1.73 g | C(C1=CC=CC=C1)N1[C@@H]([C@H]2CC(C[C@H]2C1)(F)F)CN1C(C2=CC=CC=C2C1=O)=O | C23H22F2N2O2
reactant | ammonium formate | 1.38 g | C(=O)[O-].[NH4+]
solvent | MeOH | 146 mL | CO | CH4O
catalyst | Pd—C | 1.7 g | [Pd] | Pd
product | (1S,2S,5R)-2-(7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl)-isoindole-1,3-dione | 0.8 g, 60% | FC1(C[C@H]2CN[C@@H]([C@H]2C1)CN1C(C2=CC=CC=C2C1=O)=O)F | C16H16F2N2O2
